US04367238
Powdered Potassium cyanide (2.50 g) was added to a solution of 2-methoxyphenyl 2-methoxy-3-bromomethylphenyl ether (12.0 g) in dimethylsulfoxide (100 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and then evaporated. The resultant oily residue (9.80 g) was subjected to column chromatography on silica gel and eluted with a mixture of benzene and hexane (1:1). The eluate was evaporated to give oily 2-[2-methoxy-3-(2-methoxyphenoxy)phenyl]acetonitrile (6.20 g).

reactant | Potassium cyanide | 2.50 g | [C-]#N.[K+]
reactant | 2-methoxyphenyl 2-methoxy-3-bromomethylphenyl ether | 12.0 g | COC1=C(C=CC=C1CBr)OC1=C(C=CC=C1)OC | C15H15BrO3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(2-methoxyphenoxy)phenyl]acetonitrile | 6.20 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)OC)CC#N | C16H15NO3
